US05362315
A. Preparation of a Polymerizable Monomer: 4-Ethylphenyl Methacryloxybenzoate
A solution of 16.9 g of 4-ethylphenyl 4-trimethylsilyloxybenzoate (prepared by the procedure in EP-A-358,208, page 9, sec. C) in 15 ml of toluene and 10 ml of ethanol was refluxed for 1 hour and then freed from volatile components by heating at 100° C. for 60 minutes. The remaining 13.3 g of 4-ethylphenyl 4-hydroxybenzoate were dissolved in 15 ml of toluene together with 30 g of methacrylic anhydride and 1.2 g of toluenesulfonic acid, and the mixture was heated at 100° C. for 1 hour. After cooling, the product was precipitated with hexane and recrystallized from ethanol.

reactant | 4-ethylphenyl 4-trimethylsilyloxybenzoate | 16.9 g | C[Si](OC1=CC=C(C(=O)OC2=CC=C(C=C2)CC)C=C1)(C)C | C18H22O3Si
reactant | 4-ethylphenyl 4-hydroxybenzoate | 13.3 g | OC1=CC=C(C(=O)OC2=CC=C(C=C2)CC)C=C1 | C15H14O3
reactant | methacrylic anhydride | 30 g | C(C(=C)C)(=O)OC(C(=C)C)=O | C8H10O3
reactant | toluenesulfonic acid | 1.2 g | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-Ethylphenyl Methacryloxybenzoate | C(C(=C)C)(=O)OC1=C(C(=O)OC2=CC=C(C=C2)CC)C=CC=C1 | C19H18O4
